US09238644B2
(a) 1-(2-Iodophenyl)cyclopropanecarboxylic Acid (I10)
A solution of 1-phenyl-1-cyclopropanecarboxylic acid (2.00 g, 12.3 mmol), Pd(OAc)2 (0.138 g, 0.617 mmol), iodine (2.34 g, 9.24 mmol) and (diacetoxyiodo)benzene (2.97 g, 9.24 mmol) in DMF (10 mL) was stirred at 60° C. for 18 hours covered aluminium foil. Additional iodine (2.34 g, 9.24 mmol) and (diacetoxyiodo)benzene (2.97 g, 9.24 mmol) were added and stirring was continued at 60° C. for a further 8 hours. A final addition of iodine (2.34 g, 9.24 mmol) and (diacetoxyiodo)benzene (2.97 g, 9.24 mmol) was performed and stirring was continued at 60° C. for a further 16 hours. The resulting mixture was partitioned between EtOAc and water and the aqueous phase was extracted several times with EtOAc. The combined organic extracts were washed with a 10% aqueous solution of sodium metabisulfate (3×30 mL), 10% aqueous citric acid (2×30 mL), water, brine, dried (MgSO4), filtered and evaporated. The residue was purified using silica gel column chromatography (CombiFlash Rf, 80 g SiO2 Cartridge, 30-40% EtOAc in cyclohexane) to give the title compound I10 as a cream solid (3.11 g, 87%); 1H NMR (300 MHz, CDCl3) δ 7.88 (d, J=8.0 Hz, 1H), 7.28-7.35 (m 2H), 6.97-7.03 (m, 1H), 2.13 (brs, 2H), 1.30 (brs, 2H).

reactant | 1-phenyl-1-cyclopropanecarboxylic acid | 12.3 mmol, 2.00 g | C1(=CC=CC=C1)C1(CC1)C(=O)O | C10H10O2
reactant | iodine | 9.24 mmol, 2.34 g | II | I2
reactant | (diacetoxyiodo)benzene | 9.24 mmol, 2.97 g | C(C)(=O)OI(OC(C)=O)C1=CC=CC=C1 | C10H11IO4
reactant | aluminium | [Al] | Al
reactant | iodine | 9.24 mmol, 2.34 g | II | I2
reactant | (diacetoxyiodo)benzene | 9.24 mmol, 2.97 g | C(C)(=O)OI(OC(C)=O)C1=CC=CC=C1 | C10H11IO4
reactant | iodine | 9.24 mmol, 2.34 g | II | I2
reactant | (diacetoxyiodo)benzene | 9.24 mmol, 2.97 g | C(C)(=O)OI(OC(C)=O)C1=CC=CC=C1 | C10H11IO4
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
catalyst | Pd(OAc)2 | 0.617 mmol, 0.138 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 1-(2-Iodophenyl)cyclopropanecarboxylic Acid | IC1=C(C=CC=C1)C1(CC1)C(=O)O | C10H9IO2
